US06579983B1
5cyano-N-[4-(2-p-toluenesulphonyloxyethoxy)phenyl]-4-thien-2-ylpyrimidin-2-amine was prepared from 5-cyano-N-[4-(2-hydroxyethoxy)-phenyl]-4-thien-2-ylpyrimidine-2-amine (8.02 g, 23.7 mmol) and 4-toluene-sulphonylchloride (9.0 g, 47.4 mmol) to give a yellow solid (4.97 g), m.p. 160°. δH (d6 DMSO) 10.32 (1H, s), 8.84 (1H, s), 8.26 (1H, d, J 3.9 Hz), 7.99 (1H, d, J 5.0 Hz), 7.80 (2H, d, J 8.3 Hz), 7.64 (2H, m), 7.47 (2H, d, J 8.3hz), 7.33 (1H, t, J 4.5 Hz), 6.85 (2H, d, J 9.0 Hz), 4.33 (2H, t, J 4.0 Hz), 4.15 (2H, m) and 2.41 (3H, s).

reactant | 5-cyano-N-[4-(2-hydroxyethoxy)-phenyl]-4-thien-2-ylpyrimidine-2-amine | 23.7 mmol, 8.02 g | C(#N)C=1C(=NC(=NC1)NC1=CC=C(C=C1)OCCO)C=1SC=CC1 | C17H14N4O2S
reactant | 4-toluene-sulphonylchloride | 47.4 mmol, 9.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | 5cyano-N-[4-(2-p-toluenesulphonyloxyethoxy)phenyl]-4-thien-2-ylpyrimidin-2-amine | C(#N)C=1C(=NC(=NC1)NC1=CC=C(C=C1)OCCOS(=O)(=O)C1=CC=C(C=C1)C)C=1SC=CC1 | C24H20N4O4S2
